US07592358B2
IP 14a. N-(4-bromophenyl)-3-oxobutyramide
A solution of 25.72 mL (336 mmol) of diketene in 100 mL of toluene was added dropwise at 90° C. to a solution of 51.0 g (288 mmol) of 4-bromoaniline in 200 mL of toluene and the reaction mixture was kept at this temperature for 5 hours. The reaction solution was cooled in the ice bath, and the precipitate formed was filtered and washed with toluene until the product was virtually colorless. Subsequently it was dried at 50° C. in the circulating air dryer until a constant weight was obtained. Yield: 50.0 g (68% of theoretical); C10H10BrNO2 (M=256.096); calc.: molpeak (M+H)+: 256/258 (Br); found: molpeak (M+H)+: 256/258 (Br); HPLC-MS: 4.7 minutes (method B).

reactant | diketene | 336 mmol, 25.72 mL | C=C1CC(=O)O1 | C4H4O2
reactant | 4-bromoaniline | 288 mmol, 51.0 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-bromophenyl)-3-oxobutyramide | BrC1=CC=C(C=C1)NC(CC(C)=O)=O | C10H10BrNO2
